US07230098B2
To a mixture of 4-[4-(6-Amino-5-hydroxy-pyridin-3-yl)-benzoyl]-2,6-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (50 mg, 0.12 mmol) and 1-(1-bromo-ethyl)-2-trifluoromethyl-benzene (32 mg, 0.12 mmol) in DMF (2 ml) was added 2 M Cs2CO3 (0.18 mL, 0.35 mmol), followed by water (0.5 mL), the mixture was stirred overnight then heated at 70° C. for 8 hr, LCMS showed that the reaction was completed. The DMF and water were removed. TFA (2 mL was added to the residue and stirred at room temperature for 3 hr. The TFA was removed, followed by addition of methanol. The residue was purified by prep-HPLC to afford (4-{6-amino-5-[1-(2-trifluoromethyl-phenyl)-ethoxy]-pyridin-3-yl)-phenyl)-(3,5-dimethyl-piperazin-1-yl)-methanone (20 mg, yield 34.2%).

reactant | 4-[4-(6-Amino-5-hydroxy-pyridin-3-yl)-benzoyl]-2,6-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 0.12 mmol, 50 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1C)C(C1=CC=C(C=C1)C=1C=NC(=C(C1)O)N)=O)C | C23H30N4O4
reactant | 1-(1-bromo-ethyl)-2-trifluoromethyl-benzene | 0.12 mmol, 32 mg | BrC(C)C1=C(C=CC=C1)C(F)(F)F | C9H8BrF3
reactant | Cs2CO3 | 0.35 mmol, 2 M, 0.18 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 0.5 mL | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (4-{6-amino-5-[1-(2-trifluoromethyl-phenyl)-ethoxy]-pyridin-3-yl)-phenyl)-(3,5-dimethyl-piperazin-1-yl)-methanone | 20 mg, yield 34.2% | NC1=C(C=C(C=N1)C1=CC=C(C=C1)C(=O)N1CC(NC(C1)C)C)OC(C)C1=C(C=CC=C1)C(F)(F)F | C27H29F3N4O2
